US06180627B2
Benzyl 2-[3-[(3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-methoxyethyl}phenethyl)amino]-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate
A mixture of tert-butyl (1R/S)-1-[3-(2-aminoethyl)phenyl]-2-methoxyethylcarbamate (preparation 121) (196 mg, 0.67 mmol), benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate (preparation 17) (182 mg, 0.56 mmol) and triethylamine (368 ml, 2.78 mmol) in ethyl acetate (5 ml) was heated under reflux for 18 hrs. The cooled mixture was washed with brine (15 ml), dried over MgSO4 and evaporated under reduced pressure. The residual oil was purified by column chromatography on silica gel using an elution gradient of dichloromethane:methanol (100:0 to 99:1) to afford the title compound as a colourless oil, (248 mg, 76%).

reactant | tert-butyl (1R/S)-1-[3-(2-aminoethyl)phenyl]-2-methoxyethylcarbamate | 0.67 mmol, 196 mg | NCCC=1C=C(C=CC1)C(COC)NC(OC(C)(C)C)=O | C16H26N2O3
reactant | benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 0.56 mmol, 182 mg | ClC1=C(N(C(C(=N1)Cl)=O)CC(=O)OCC1=CC=CC=C1)C | C14H12Cl2N2O3
reactant | triethylamine | 2.78 mmol, 368 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-[3-[(3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-methoxyethyl}phenethyl)amino]-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 248 mg, 76% | C(C)(C)(C)OC(=O)NC(COC)C=1C=C(CCNC=2C(N(C(=C(N2)Cl)C)CC(=O)OCC2=CC=CC=C2)=O)C=CC1 | C30H37ClN4O6
